### PR TITLE
[Merged by Bors] - feat(Data/ENat): multiplication and Inf/Sup lemmas

### PR DESCRIPTION
**Pull request by apnelson1**
We add some lemmas for multiplication and suprema/infima for `ENat`, including a handful that were stated as `proof_wanted`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ENat/Basic.lean [hunk 1]
```diff
@@ -348,6 +354,43 @@ lemma add_right_injective_of_ne_top {n : ℕ∞} (hn : n ≠ ⊤) : Function.Inj
...
+  exact Nat.mul_lt_mul_of_pos_left hxy (Nat.pos_of_ne_zero (by simpa using ha))
+
+lemma mul_right_strictMono (ha : a ≠ 0) (h_top : a ≠ ⊤) : StrictMono (· * a) := by
+  simpa [show (· * a) = (a * ·) by simp [mul_comm]] using mul_left_strictMono ha h_top
+
+lemma mul_le_mul_left_iff {x y : ℕ∞} (ha : a ≠ 0) (h_top : a ≠ ⊤) : a * x ≤ a * y ↔ x ≤ y :=
+  (ENat.mul_left_strictMono ha h_top).le_iff_le
+
+lemma mul_le_mul_right_iff {x y : ℕ∞} (ha : a ≠ 0) (h_top : a ≠ ⊤) : x * a ≤ y * a ↔ x ≤ y :=
+  (ENat.mul_right_strictMono ha h_top).le_iff_le
```
Comment (b-mehta) [inline Mathlib/Data/ENat/Basic.lean:380]: It might be reasonable to mark these as simp? (Recall that if simp can prove the two side conditions ha and h_top, it will succeed on the rewrite)

File: Mathlib/Data/ENat/Basic.lean [hunk 2]
```diff
@@ -348,6 +354,43 @@ lemma add_right_injective_of_ne_top {n : ℕ∞} (hn : n ≠ ⊤) : Function.Inj
...
+  | coe y =>
+  simp only
+  rw [← ENat.coe_mul, ← ENat.coe_mul, ENat.coe_lt_coe]
+  rw [ENat.coe_lt_coe] at hxy
+  exact Nat.mul_lt_mul_of_pos_left hxy (Nat.pos_of_ne_zero (by simpa using ha))
+
+lemma mul_right_strictMono (ha : a ≠ 0) (h_top : a ≠ ⊤) : StrictMono (· * a) := by
+  simpa [show (· * a) = (a * ·) by simp [mul_comm]] using mul_left_strictMono ha h_top
+
+lemma mul_le_mul_left_iff {x y : ℕ∞} (ha : a ≠ 0) (h_top : a ≠ ⊤) : a * x ≤ a * y ↔ x ≤ y :=
```
Comment (b-mehta) [inline Mathlib/Data/ENat/Basic.lean:376]: It seems useful to have the reverse direction of these marked as gcongr

File: Mathlib/Data/ENat/Lattice.lean [hunk 3]
```diff
@@ -85,6 +86,20 @@ lemma sSup_eq_zero' : sSup s = 0 ↔ s = ∅ ∨ s = {0} :=
 @[simp] lemma iSup_eq_zero : iSup f = 0 ↔ ∀ i, f i = 0 := iSup_eq_bot
 @[simp] lemma iSup_zero : ⨆ _ : ι, (0 : ℕ∞) = 0 := by simp
 
+lemma exists_eq_iInf [Nonempty ι] (f : ι → ℕ∞) : ∃ a, f a = ⨅ x, f x := by
+  suffices aux : ∀ f' : PLift ι → ℕ∞, ∃ a, f' a = ⨅ x, f' x by
```
Comment (b-mehta) [inline Mathlib/Data/ENat/Lattice.lean:90]: I'm guessing this is needed to allow iota to be a Prop too; but is this separate case a sign that something else has missing API?

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Data/ENat/Basic.lean (hunk 2 above)
Comment (apnelson1) [reply Mathlib/Data/ENat/Basic.lean:376]: By the reverse direction, do you mean `x ≤ y -> a * x ≤ a * y`? This is just true with no conditions on `a`, by `mul_le_mul_left'`, so it doesn't seem like it needs `gcongr`.

File: Mathlib/Data/ENat/Lattice.lean (hunk 3 above)
Comment (apnelson1) [reply Mathlib/Data/ENat/Lattice.lean:90]: I was worried about that particular rabbit-hole, but it was shockingly easy to fix! All it took was changing `variable {ι : Type*}` to `variable {ι : Sort*}` at the top of `CompleteLinearOrder.lean`.

File: Mathlib/Data/ENat/Basic.lean (hunk 2 above)
Comment (apnelson1) [reply Mathlib/Data/ENat/Basic.lean:377]: (I can't find any other directions where `gcongr` doesn't give me a red underline)

Comment (b-mehta) [reply Mathlib/Data/ENat/Basic.lean:377]: Ah, good point - I didn't realise it doesn't need conditions!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
